US04462943
The cis-N-carbobenzyloxy-4-[(phenylmethyl)-thio]-L-proline, ethyl ester (16.4 g., 0.042 mole) is saponified in 135 ml. of methanol with 32 ml. (0.064 mole) of 2N sodium hydroxide according to the procedure of Ondetti et al. in Example 44(b) of U.K. Patent Application No. 2,028,327 to give 12.6 g. of a pale yellow oil. The latter (11.7 g.) is dissolved in 60 ml. of acetonitrile and treated with 4.7 g. of 1-adamantanamine to give 12.7 g. of cis-N-carbobenzyloxy-4-[(phenylmethyl)thio]-L-proline, 1-adamantanamine salt as a colorless solid; m.p. 190-192° (s. 182°), [α]D23 =-20° (c=1, methanol).

reactant | cis-N-carbobenzyloxy-4-[(phenylmethyl)-thio]-L-proline, ethyl ester | 0.042 mole, 16.4 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)OCC)C[C@@H](C1)SCC1=CC=CC=C1 | C22H25NO4S
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 0.064 mole, 2N | [OH-].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
product | 1-adamantanamine | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
